US08232289B2
Preparation 1: 4′,5′-Dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]
3-Thiopheneethanol (123.03 mL, 1.11 mol) is added to a solution of N-tert-butoxycarbonyl-4-piperidone (185 g, 928.48 mmol) in dichloromethane (1300 mL) and stirred at room temperature. Then trifluoroacetic acid (280.82 mL, 3.71 moles) is added dropwise (5 min) while cooling with an ice/water bath (internal temperature=14° C.-30° C., caution: CO2 evolution). The reaction mixture is gradually warmed to ambient temperature and stirred at that temperature for 20 hr. The solvent is evaporated to provide a beige crystalline solid upon cooling in vacuo. The solid is slurried in methyl t-butyl ether (200 mL), filtered, washed with methyl t-butyl ether (2×1000 mL) and dried under vacuum to afford 4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-ium trifluoroacetate as a white solid in 95% yield. MS=(m/z): 210 (M+1). 10 M sodium hydroxide (220.36 mL, 2.20 mol) is added to a stirred suspension of 4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-ium trifluoroacetate (285 g, 881.44 mmol) in dichloromethane (1 L) with cooling (ice/water bath) and the resulting mixture is stirred till a biphasic mixture is obtained. The phases are separated and the aqueous layer is extracted with dichloromethane (2×200 mL). Combined organics are concentrated under vacuum to obtain a thick oil which is triturated with water to obtain a light yellow precipitate. The precipitate is filtered, washed with water (300 mL) and hexane (200 mL) and dried under vacuum at 35° C. for 20 hr. to yield the title compound as a light yellow solid in 86% yield. MS (m/z): 210 (M+1).

reactant | sodium hydroxide | 2.20 mol, 10 M, 220.36 mL | [OH-].[Na+]
reactant | 4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-ium trifluoroacetate | 881.44 mmol, 285 g | FC(C(=O)[O-])(F)F.S1C=CC2=C1C1(OCC2)CC[NH2+]CC1
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 4′,5′-Dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran] | 86% yield | S1C=CC2=C1C1(OCC2)CCNCC1 | C11H15NOS
